Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Severe headache
 
Major Surgical or Invasive Procedure:
Lumbar puncture
___
 
History of Present Illness:
___ is a healthy ___ woman who presented to the ED for
evaluation of severe headaches and malaise. 
 
She reported that for about a week now she was suffering from
severe, debilitating headaches. She describes these headaches as
bilateral in nature, starting in the back, base of her skull and
radiating to her temples bilaterally. She also reports the
symptoms are worse with light or sound and with movement such as
climbing stairs. She went to urgent care on ___ where her work
up was unrevealing and she was prescribed Fioricet and sent 
home.
She continued to feel poorly so she came in to see her primary
care physician ___ ___ who diagnosed her with a likely tension
headache and prescribed cyclobenzaprine 10mg PO QHS. She
continued to feel terrible and unable to manage at home so her
husband brought her to the ED.
     
In the ED, initial vitals were: ___ pain 98.6 78 ___ 18 96%
RA. On evaluation, ED reported her exam as relatively benign; 
she
neurologically intact, and had a question of meningismus. The
remainder of her exam was unremarkable. Labs, chest x-ray, CT
head without contrast were all largely negative. An lumbar
puncture was performed and did not show signs of meningitis.
Urinalysis was positive, but patient denied any urinary symptoms
so antibiotics were not initially started. Flu swab was 
negative.
She received fluids, medications for headache, and 2 g of
ceftriaxone empirically. She was monitored and then observed
overnight for ongoing symptoms. The morning of admission to the
hospital she reported feeling worse, she developed a fever
febrile and her blood pressure downtrended. She was given IVFs
and IV CTX for possible pyelonephritis after the final CT A/P
read demonstrated possible pyelonephritis. Received 4L IVF with
no improvement, but on further review of outpatient blood
pressures she normally is SBP ___. She was then admitted to
medicine. Vitals prior to transfer: ___ pain 100.6 118 96/58 16
98% RA.
 
Of note, the patient indicates that in ___ she had a follow 
up
with her PCP and on routine urinalysis she was found to have 
UTI.
She was away when her doctor called her so it wasn't until she
saw the report when she returned from vacation. Her dentist
husband prescribed her antibiotics and she completed a course
(doesn't know which Abx). She indicates she never had dysuria,
polyuria or change in urine frequency, color or odor. She 
reports
no urinary symptoms recently either. She does also report back
pain which has been worsening the past week.

 
Past Medical History:
- Vitamin D deficiency
 
Social History:
___
Family History:
FAMILY HISTORY:  
- Mother with gallbladder cancer, died at ___
- Father with HTN and HLD
- Aunt with breast cancer
 
Physical Exam:
Discharge Exam
VSS
General: alert, oriented and in no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP low, no LAD appreciated
Lungs: Clear to auscultation bilaterally, moving air well and
symmetrically, no wheezes, rales or rhonchi appreciated  
CV: Regular rate and rhythm, S1 and S2 clear and of good 
quality,
no murmurs, rubs or gallops appreciated
Abdomen: soft, non-tender, non-distended, normoactive bowel
sounds throughout, no rebound or guarding, no CVA tenderness
bilaterally
Ext: Warm, well perfused, full distal pulses, no clubbing,
cyanosis or edema    
Neuro: CN2-12 grossly in tact, motor and sensory function 
grossly
intact in bilateral UE and ___, symmetric
 
Pertinent Results:
LABS: Reviewed in OMR, notable for non-anion gap acidosis, 
normal
Cr, WBC of 9.3, LFTs normal. CSG studies showing 1 WBC, 0 RBC, 
18
protein and 62 glucose. Flu swab negative. UA with >182 WBCs and
+ Nitr.
     
MICRO: Reviewed in ___, notable for CSF showing no growth, UCx
NGTD, BCx NGTD x2
 
Urine culture growing >100 CFU of e coli

CT A/P
1. 13 mm ill-defined hypodensity in the right posterior
interpolar kidney in conjunction with proximal right urothelial
hyperenhancement and adjacent stranding suggest ascending 
urinary
tract infection (pyelonephritis and ureteritis). No
hydronephrosis.
2. Mild diffuse heterogeneity of the liver is nonspecific,
however anecdotally maybe seen in patients taking oral
contraceptives. Recommend clinical correlation with LFTs, as
passive hepatic congestion, sinusoidal obstruction syndrome, and
Budd-Chiari may also cause this appearance. An ultrasound of the
right upper quadrant may also be obtained to assess patency of
hepatic veins which were not well assessed on the current CT
exam.
3. Moderate-sized stool ball in the rectum.
 
CT Head: No acute intracranial process

CXR: No acute cardiopulmonary process
 
 
Brief Hospital Course:
Healthy ___ woman who presented to the ED for
evaluation of severe persistent headache for the past week and 
malaise found to have
pyelonephritis.
 
# Acute Pyelonephritis:
Pt never had urinary symptoms but does endorse back pain and 
malaise. UA had many WBCs the UCx grew ecoli >100 CFU. The CT
shows right urothelial enhancement. Treated for pyelonephritis
given CT findings. It is possible headache is related to 
systemic
illness and persisted for so long due to untreated Pyelo 
although
it persists despite IVF and abx. During her hospitalization she 
had no fevers, never had urinary symptoms except for back pain, 
and her white count remained normal. 
- IVFs
- IV Ceftriaxone--> transitioned to Bactrim on discharge for 8 
more days (pansensitive e coli)

#Medication Overuse Headache with migrainous features
#Cervicalgia
Endorsed ongoing headache radiating from her neck since 
___ and has no prior
history of migraines. Has been intermittently taking Tylenol and
ibuprofen as well as fioricet at home with little relief. On 
exam, she had no focal deficits. Labs were unrevealing as were 
NCHCT and LP. Cocktail of toradol,
benadryl and prochlorperazine has helped so it was scheduled to 
try to break the headache. Neurology was consulted for daily 
persistent headache given red
flag symptoms (severe, new onset at age ___, fever, blurry
vision) however by the morning of discharge the fever had 
resolved. They recommended limiting ibuprofen and Tylenol only 
___ times daily. Would limit fioricet to ___ times weekly at max 
and start on preventative magnesium oxide  daily. Also recommend 
warm compresses and ___ for neck stiffness. 

#Hypotension (resolved)
On review of outpatient recrods, dating back to ___ her BPs 
have
ranged from 90/58-112/60 with the majority recorded in the mid
___. Therefore, her blood pressure appears to be at baseline
- Monitor
- resolved during hospitalization
  
# Anxiety
- Continue Ativan prn

Outstanding Issues:
[ ] for headache, neurology recommended limiting ibuprofen and 
Tylenol only ___ times daily. Would limit fioricet to ___ times 
weekly at max and start on preventative magnesium oxide  daily. 
Also recommend warm compresses and ___ for neck stiffness. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5 mg PO Q8H:PRN anxiety 
2. etonogestrel-ethinyl estradiol 0.12-0.015 mg/24 hr vaginal 
1X:ASDIR 
3. Vitamin D 1000 UNIT PO DAILY 
4. Cyclobenzaprine 10 mg PO HS:PRN Headache / insomnia 

 
Discharge Medications:
1.  Magnesium Oxide 400 mg PO DAILY migraine prevention 
RX *magnesium oxide 400 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
2.  Cyclobenzaprine 10 mg PO HS:PRN Headache / insomnia  
3.  etonogestrel-ethinyl estradiol 0.12-0.015 mg/24 hr vaginal 
1X:ASDIR  
4.  LORazepam 0.5 mg PO Q8H:PRN anxiety  
5.  Vitamin D 1000 UNIT PO DAILY 
6.  Bactrim x 8 days (end date: ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pyelonephritis
Headache
 
Discharge Condition:
stable
 
Discharge Instructions:
You were admitted to the hospital because you developed a 
urinary tract infection that ascended to your kidneys. This is 
known as pyelonephritis. It was treated with an antibiotic 
called ceftriaxone and you were ultimately discharged on bactrim 
which you should continue to take for 8 more days. You were also 
seen for a persistent headache, that improved with toradol, 
prochlorperazine and benadryl. Serious etiologies such as tumor 
and meningitis were ruled out with a head CT and lumbar 
puncture. A neurologist saw you and recommended that you avoid 
overuse of Tylenol, ibuprofen and fioricet. You should consider 
hot compresses, a supportive pillow, and ___ for your neck 
stiffness, which may be related to stress or poor posture.  
 
Followup Instructions:
___